US04163008
2,4-Dimethyl-3-mercaptomethyl-6-t-butylphenol.
This material was synthesized according to the procedure of Song (Song, J. U.S. Pat. No. 3,810,929) using 2,4-dimethyl-3-chloromethyl-6-t-butylphenol (160.8 g, 0.71 m), triethylamine (80 g), tetrahydrofuran (200 ml) and excess hydrogen sulfide. This afforded upon work-up a slightly yellow odorous oil.

reactant | 2,4-dimethyl-3-chloromethyl-6-t-butylphenol | 160.8 g | CC1=C(C(=CC(=C1CCl)C)C(C)(C)C)O | C13H19ClO
reactant | triethylamine | 80 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,4-Dimethyl-3-mercaptomethyl-6-t-butylphenol | CC1=C(C(=CC(=C1CS)C)C(C)(C)C)O | C13H20OS
